US06964966B2
1-Benzyl-4-piperidone (100 gm, 0.53 mol) diluted with 100 ml THF was added to a suspension of 60% NaH (42 g, 1.05 mol) in 700 ml THF at −10 to −5° C. the mixture was stirred for 1 hour and methyl iodide (150 gm, 1.06 mol) diluted in 50 ml THF was added, maintaining the temperature between −3 to −10° C. The resultant mixture was stirred. Ethyl acetate (800 ml) was added to the reaction mixture followed addition of 300 ml water. The organic layer was separated washed with 2×300 ml water and concentrated under vacuum to obtain a syrup. The syrup was triturated with 200 ml hexane. the mass was filtered at room temperature over celite and the filtrate concentrated to afford a 121 gm of crude compound. The crude compound upon high vacuum distillation afforded 85 g distillate. To the distillate (50 gm) was charged 50 of concentrated hydrochloric acid. The suspension was stirred for 15 minutes and hydrochloric acid was evaporated under vacuum to obtain a thick residue. Isopropanol (50 ml) was added to this residue and was evaporated under vacuum to obtain a solid. The solid was dissolved in 200 ml isopropanol under reflux and stirring, and cooled under stirring to effect crystallization. The crystalline solid was filtered under suction at 20-30° C. to give a white crystalline compound as hydrochloride salt of 1-benzyl-3,3-dimethyl-4-piperidone. The solid was dissolved in 100 ml water and made alkaline with aqueous ammonia solution to pH 10-11. Alkaline aqueous phase was extracted with 50 ml chloroform thrice. Combined organic extract was washed with water, dried over sodium sulfate and then evaporated under vacuum to afford 28 g (80%) compound as an oil.

reactant | 1-Benzyl-4-piperidone | 0.53 mol, 100 gm | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | NaH | 1.05 mol, 42 g | [H-].[Na+]
reactant | methyl iodide | 1.06 mol, 150 gm | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 700 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | Isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | water | 300 ml | O | H2O
solvent | Ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-3,3-dimethyl-4-piperidone | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
